US04877899
To a solution of 3-hexylthio-2-propenyl acetate (1.3 g, 6.0 mmol) in 10 ml of ether cooled to -10° is added bromine (1.05 g, 0.34 ml, 6.6 mmol). The mixture is stirred at ambient temperature for 30 min., then cooled to 0° and triethylamine (3.0 g, 4.18 ml, 30.0 mmol) is added. The reaction mixture is stirred overnight at RT, then diluted with water and extracted with hexane. The extract is washed with 2N H2SO4, water, saturated NaHCO3 and brine and is dried. The crude product is purified by prep. TLC on silica gel eluting with 20% ethyl acetate/hexane. The upper band is collected to give 3-bromo-3-hexylthio-2-propenyl acetate. The lower band is collected to give 2-bromo-3-hexylthio-2propenyl acetate.

reactant | 3-hexylthio-2-propenyl acetate | 6.0 mmol, 1.3 g | C(C)(=O)OCC=CSCCCCCC | C11H20O2S
reactant | bromine | 6.6 mmol, 0.34 ml, 1.05 g | BrBr | Br2
reactant | triethylamine | 30.0 mmol, 4.18 ml, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-bromo-3-hexylthio-2-propenyl acetate | C(C)(=O)OCC=C(SCCCCCC)Br | C11H19BrO2S
